US07888366B2
Equipped with magnetic stirring, (methoxymethyl)-triphenylphosphonium chloride (5.2 g, 15.2 mmol) was suspended in anhydrous tetrahydrofuran at 0° C. under N2 flow. Phenyl lithium, in 1.8 M in di-n-butyl ether (8.4 mL, 15.2 mmol), was added such that the temperature did not exceed 4° C. Mixture remained at 0° C. for 15 minutes, and a solution of 4-chlorobenzonitrile (0.56 g, 4.07 mmol) dissolved in 10 mls of anhydrous tetrahydrofuran was added over 15 minutes. Reaction was warmed to room temperature and continued for another 2 hours. Reaction was quenched with 50 ml of water and mixture was extracted (3×100 mls) with ether. Combined ethers were washed (2×20 mls) brine, and dried over MgSO4. Organics were filtered and concentrated to an amber oil. Oil was loaded on a flash silica gel column and eluted with 10-40% EA/Hex gradient to afford 382 mg of 1-(4-chlorophenyl)-2-methoxy-ethanone. (51% yield).

reactant | (methoxymethyl)-triphenylphosphonium chloride | 15.2 mmol, 5.2 g | [Cl-].COC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | Phenyl lithium | C1(=CC=CC=C1)[Li]
reactant | di-n-butyl ether | 15.2 mmol, 8.4 mL | C(CCC)OCCCC | C8H18O
reactant | 4-chlorobenzonitrile | 4.07 mmol, 0.56 g | ClC1=CC=C(C#N)C=C1 | C7H4ClN
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 mls | O1CCCC1 | C4H8O
product | 1-(4-chlorophenyl)-2-methoxy-ethanone | 382 mg, 51% yield | ClC1=CC=C(C=C1)C(COC)=O | C9H9ClO2
